US04340753
Ozone was passed through a solution of 2.0 gms of 3-methyl-2-cyclohexenone at -78° C. for 30 minutes. The mixture was warmed to -20° C. and treated with a solution of 3.0 g of 30% hydrogen peroxide in 3.0 g of 50% NaOH. A drop of Adogen 464 was added and the two phase mixture was stirred vigorously for 1 hour. The aqueous phase was separated and acidified then extracted with ether. Removal of the ether afforded 1.12 g (48%) of 5-keto-hexanoic acid. The identity of the acid was confirmed by comparing the IR spectra of its methyl ester to the known spectra of the same compound.

reactant | Ozone | O=[O+][O-] | O3
reactant | 3-methyl-2-cyclohexenone | 2.0 gms | CC1=CC(CCC1)=O | C7H10O
reactant | hydrogen peroxide | 3.0 g | OO | H2O2
reactant | NaOH | 3.0 g | [OH-].[Na+]
catalyst | Adogen 464 | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 5-keto-hexanoic acid | 1.12 g, 48% | O=C(CCCC(=O)O)C | C6H10O3
